US05760035
In a similar manner to Example 16, a mixture of 4-(2-dimethylaminoethyl)piperidine dihydrochloride (5.5 g), 2-bromoethyl 4-fluorophenyl ether (5.26 g), triethylamine (13.4 ml) and DMF (50 ml) was heated on a steam bath for 16 hours to give 4-(2-dimethylaminoethyl)-1-[2-(4-fluorophenoxy)ethyl]piperidine dihydrochloride, m.p. 260°-262° C.

reactant | 4-(2-dimethylaminoethyl)piperidine dihydrochloride | 5.5 g | Cl.Cl.CN(CCC1CCNCC1)C
reactant | 2-bromoethyl 4-fluorophenyl ether | 5.26 g | FC1=CC=C(C=C1)OCCBr | C8H8BrFO
reactant | triethylamine | 13.4 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(2-dimethylaminoethyl)-1-[2-(4-fluorophenoxy)ethyl]piperidine dihydrochloride | Cl.Cl.CN(CCC1CCN(CC1)CCOC1=CC=C(C=C1)F)C | InChI=1S/C17H27FN2O.2ClH/c1-19(2)10-7-15-8-11-20(12-9-15)13-14-21-17-5-3-16(18)4-6-17;;/h3-6,15H,7-14H2,1-2H3;2*1H
